US04122265
In accordance with the procedure described in Example 3, 16.0 g. of o-benzoyl-p-chlorophenylglyoxylic acid [2-(diethylamino)ethyl]methylamide are reacted with 4.1 g. of ammonia and 1.6 g. of sodium cyanoborohydride. The ether extract containing the free base is concentrated to about 300 ml. and treated with ethereal hydrochloric acid. The precipitated hydrochloride is recrystallized from ethanol, and there is obtained 5-chloro-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]methylamide hydrochloride in the form of felt-like greenish crystals having a melting point of 208°-210° C. (decomposition).

reactant | o-benzoyl-p-chlorophenylglyoxylic acid [2-(diethylamino)ethyl]methylamide | C(C)N(CCN(C(C(=O)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O)C)CC | C22H25ClN2O3
reactant | ammonia | N | H3N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 5-chloro-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]methylamide hydrochloride | Cl.C(C)N(CCN(C(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)CC | InChI=1S/C22H26ClN3O.ClH/c1-4-26(5-2)14-13-25(3)22(27)21-18-12-11-17(23)15-19(18)20(24-21)16-9-7-6-8-10-16;/h6-12,15,24H,4-5,13-14H2,1-3H3;1H
